US08466176B2
In a dried and purged vessel were added N-[(6-bromopyridin-2-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (0.2 g, 0.536 mmol, 1 eq.), [(E)-2-cyclohexylvinyl]boronic acid (0.090 g, 0.58 mmol, 1.1 eq.), Na2CO3 (0.119 g, 1.12 mmol, 2.1 eq.) and Tetrakis(triphenylphosphine)palladium (0.030 g, 0.027 mmol, 0.05 eq.). A mixture of solvent was added toluene/ethanol/water (4/1/1) was added and the vessel purged with argon and sealed. The reaction was heated to 90° C. for 6 hrs. After cooling, 10 ml of EtOAc were added and the solids were filtered through a “Celite” plug and washed with EtOAc. The organics were separated, dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel to give N-({6-[(E)-2-cyclohexylvinyl]pyridin-2-yl}methoxy)-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (0.155 g, 68% yield) as a colorless gum.

reactant | N-[(6-bromopyridin-2-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 0.536 mmol, 0.2 g, 1 eq. | BrC1=CC=CC(=N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C15H13BrN6O
reactant | [(E)-2-cyclohexylvinyl]boronic acid | 0.58 mmol, 0.090 g, 1.1 eq. | C1(CCCCC1)/C=C/B(O)O | C8H15BO2
reactant | Na2CO3 | 1.12 mmol, 0.119 g, 2.1 eq. | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium | 0.027 mmol, 0.030 g, 0.05 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene ethanol water | C1(=CC=CC=C1)C.C(C)O.O
product | N-({6-[(E)-2-cyclohexylvinyl]pyridin-2-yl}methoxy)-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 0.155 g, 68% yield | C1(CCCCC1)/C=C/C1=CC=CC(=N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C23H26N6O
